US08022062B2
7-Chloro-6-(pyridin-3-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 347, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 3-(bromomethyl)pyridine hydrobromide to give, after deprotection by a method similar to the General Procedure 1-4, the title compound as a white solid. MS (ES+) m/z: 305 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 3-(bromomethyl)pyridine hydrobromide | Br.BrCC=1C=NC=CC1
product | 7-Chloro-6-(pyridin-3-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC=1C=NC=CC1 | InChI=1S/C16H17ClN2S.ClH/c17-15-4-3-13-5-8-18-9-6-14(13)16(15)20-11-12-2-1-7-19-10-12;/h1-4,7,10,18H,5-6,8-9,11H2;1H
